US04900743
4-Methyl-5-methylthio-3-(2-naphthyl)-4H-1,2,4-triazole
A mixture of 2,4-dihydro-4-methyl-5-(2-naphthyl)-3H-1,2,4-triazole-3-thione (5.26 g, 2.18×10-2 mole), K2CO3 (3.01 g, 2.18×10-2 mole), methyl iodide (1.5 ml, 2.4×10-2 mole), and acetone (65 ml) was stirred and warmed to reflux. After refluxing overnight, the solvent was evaporated at reduced pressure and the concentrate was treated with water. The aqueous mixture was extracted with EtOAc three times. The EtOAc extracts were combined, washed with saturated aqueous NaCl, and dried over anhydrous Na2SO4. The drying agent was removed by filtration and the filtrate was evaporated at reduced pressure to yield the desired product. Mp 177°-179° C.

reactant | 2,4-dihydro-4-methyl-5-(2-naphthyl)-3H-1,2,4-triazole-3-thione | 2.18×10-2 mole, 5.26 g | CN1C(NN=C1C1=CC2=CC=CC=C2C=C1)=S | C13H11N3S
reactant | K2CO3 | 2.18×10-2 mole, 3.01 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 2.4×10-2 mole, 1.5 ml | CI | CH3I
solvent | acetone | 65 ml | CC(=O)C | C3H6O
product | 4-Methyl-5-methylthio-3-(2-naphthyl)-4H-1,2,4-triazole | CN1C(=NN=C1SC)C1=CC2=CC=CC=C2C=C1 | C14H13N3S
